US06743814B2
1 g of 2-(3,4,4-trifluoro-3-butenylthio)oxazolidin-4-one and 0.9 g of triethylamine were dissloved in 30 ml of tetrahydrofuran, to which 0.56 g of methanesulfonic chloride was added dropwise under ice cooling and stirred at 50° C. for 8 hours. After distilling off the solvent under reduced pressure, the residue was dissolved in ether. After washing with 1N hydrochloric acid and water, it was dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography (eluent: hexane:dichloromethane=1:1) to obtain 0.25 g of 4-methylsulfonyloxy-2-(3,4,4-trifluoro-3-butenylthio)oxazole (yield 19%). n20D=1.4830.

reactant | 2-(3,4,4-trifluoro-3-butenylthio)oxazolidin-4-one | 1 g | FC(CCSC1OCC(N1)=O)=C(F)F | C7H8F3NO2S
reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic chloride | 0.56 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-methylsulfonyloxy-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 0.25 g, yield 19% | CS(=O)(=O)OC=1N=C(OC1)SCCC(=C(F)F)F | C8H8F3NO4S2
